US09233983B2
Step-I: 2-bromo-5-(2-bromoethoxy)pyridine (Q-1-I)
6-Bromo-3-hydroxypyridine (2 g, 11.56 mmol) was dissolved in anhydrous DMF (20 mL); to which 1,2-dibromoethane (10 g, 57.82 mmol) was added and the reaction mixture was stirred at room temperature for 16 h. After completion of the reaction, water (100 mL) was added to it and extraction was carried out using EtOAc (30 mL×3). The combined organic layers were washed with water (100 mL), brine (100 mL), dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was purified using silica gel column chromatography to provide Q-1-I (2.7 g, 86% yield). LCMS: m/z; 280.0 (M+1)+.

reactant | 6-Bromo-3-hydroxypyridine | 11.56 mmol, 2 g | BrC1=CC=C(C=N1)O | C5H4BrNO
reactant | 1,2-dibromoethane | 57.82 mmol, 10 g | BrCCBr | C2H4Br2
reactant | water | 100 mL | O | H2O
reactant | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-bromo-5-(2-bromoethoxy)pyridine | 86% yield | BrC1=NC=C(C=C1)OCCBr | C7H7Br2NO
